US06969728B2
Step 1) Preparation of 4-(4-Chloro-benzylsulfanyl)-3,5-dimethyl-1H-pyrazole.
To a solution of crude 3-(4-chloro-benzylsulfanyl)-pentane-2,4-dione [prepared as described above from 3-chloro-pentan-2,3-dione (1.03 g, 7.63 mmol) and 4-chlorobenzyl mercaptan (1.21 g, 7.63 mmol)] in ethanol (60 mL) was added hydrazine hydrate (0.713 mL, 22.9 mmol) and p-toluenesulfonic acid monohydrate (ca. 25 mg). The solution was heated to reflux and stirred for 15 hours. The reaction mixture was allowed to cool to room temperature, and water (300 mL) was added. The precipitate that formed was removed by filtration, washed with water, and dried to provide 1.38 g (72%) of the product as a white solid: 1H NMR (CDCl3) δ 7.17 (d, J=8.4 Hz, 2H), 6.92 (d, J=8.4 Hz, 2H), 3.57 (s, 2H), and 2.02 (s, 6H) ppm. 13C NMR (CDCl3) δ 137.2, 132.7, 130.3, 128.3, 105.2, 39.9, 10.7 ppm.

reactant | 3-(4-chloro-benzylsulfanyl)-pentane-2,4-dione | 7.63 mmol, 1.03 g | ClC1=CC=C(CSC(C(C)=O)C(C)=O)C=C1 | C12H13ClO2S
reactant | hydrazine hydrate | 22.9 mmol, 0.713 mL | O.NN
reactant | water | 300 mL | O | H2O
solvent | ethanol | 60 mL | C(C)O | C2H6O
catalyst | p-toluenesulfonic acid monohydrate | ca. 25 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 4-(4-Chloro-benzylsulfanyl)-3,5-dimethyl-1H-pyrazole | 1.38 g, 72% | ClC1=CC=C(CSC=2C(=NNC2C)C)C=C1 | C12H13ClN2S
